US04755212
Preparation of 2-benzylthio-5-methoxy-1,2,4-triazolo[1,5-a]pyrimidine
A mixture of 6.0 g (22 mmol) of 2-benzylthio-5-chloro-1,2,4-triazolo[1,5-a]pyrimidine in 25 ml of methanol was treated with 5.0 g (23.8 mmol) of a 25% solution of sodium methoxide in methanol. After stirring for 1.5 hours the reaction mixture was diluted with 100 ml of water and neutralized with 3N HCL (aq). The solid which separated was collected by filtration, washed with water and dried to afford 5.0 g (84%) of the desired product as a white solid, m.p. 126°-128° C. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | 2-benzylthio-5-chloro-1,2,4-triazolo[1,5-a]pyrimidine | 22 mmol, 6.0 g | C(C1=CC=CC=C1)SC1=NN2C(N=C(C=C2)Cl)=N1 | C12H9ClN4S
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 2-benzylthio-5-methoxy-1,2,4-triazolo[1,5-a]pyrimidine | 5.0 g, 84% | C(C1=CC=CC=C1)SC1=NN2C(N=C(C=C2)OC)=N1 | C13H12N4OS
